US04963575
By proceeding in a similar manner but replacing the 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole in the above example by 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylsulphonylpyrazole, 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylsulphonyl-5-pyrrol-1-ylpyrazole was obtained as a white solid, mp 200.5°-201.5° C. The preparation of the starting material for this compound is described in European Patent Publication No. 234119.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylsulphonylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C | C12H7Cl2F3N4O2S
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylsulphonyl-5-pyrrol-1-ylpyrazole | C(#N)C1=NN(C(=C1S(=O)(=O)C)N1C=CC=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C16H9Cl2F3N4O2S
